US09278967B2
In an alternative procedure, the intermediate can be converted to the oxime using hydroxylamine hydrochloride and sodium acetate in ethanol, and the oxime reduced to 8-exo bicyclo[3.3.1]non-3-yl-8-endo-aza-bicyclo[3.2.1]oct-3-ylamine (RA′) by hydrogenation using platinum oxide in acetic acid under 5 atmospheres of hydrogen. Intermediate (RA′) can be reacted with 2-fluoro nitrobenzene and potassium carbonate in DMF to give 8-exo-bicyclo[3.3.1]non-3-yl-8-endo-aza-bicyclo[3.2.1]oct-3-yl)-(2-nitro-phenyl)-amine (RA″). Finally reduction of the nitro group using 10% palladium on charcoal can give N-(exo-8-bicyclo[3.3.1]non-3-yl-8-endo-aza-bicyclo[3.2.1]oct-3-yl)benzene-1,2-diamine (RB).

reactant | hydroxylamine hydrochloride | Cl.NO
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 2-fluoro nitrobenzene | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | C(C)O | C2H6O
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | DMF | CN(C)C=O | C3H7NO
catalyst | platinum oxide | [Pt]=O
product | (2-nitro-phenyl)-amine | [N+](=O)([O-])C1=C(C=CC=C1)N | C6H6N2O2
